US06180635B2
a) 1,2,3,4-Tetrahydro-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-2,4-dioxothieno[2,3-d]pyrimidine-5-carboxylic acid
n-Butyllithium (2.0M solution in hexanes, 1.90 ml) was added dropwise to a solution of diisopropylamine (0.069 ml) in anhydrous tetrahydrofuran (30 ml ) at 0° C., under nitrogen. The solution was stirred for 5 minutes then cooled to −78° C. and a solution of 3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (1.50 g) in anhydrous tetrahydrofuran (15 ml) was added dropwise. After 15 minutes, the flask was transferred to a sealed bomb containing carbon dioxide pellets (2 g) and heated to 50° C. for 18 hours. The reaction mixture was cooled to room temperature then added to aqueous sodium hydroxide solution (0.25M, 75 ml) and washed with ether (2×75 ml). The aqueous layer was acidified with concentrated hydrochloric acid and extracted with ether (2×75 ml). The organic extracts were dried over anhydrous magnesium sulfate, filtered and evaporated under reduced pressure. The residue was purified by column chromatography over silica, eluting with isohexane:ethyl acetate (3:1) containing 1% acetic acid, to give the subtitle compound (0.337 g) as a solid.

reactant | n-Butyllithium | 2.0M, 1.90 ml | C(CCC)[Li]
reactant | diisopropylamine | 0.069 ml | C(C)(C)NC(C)C | C6H15N
reactant | 3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 1.50 g | CN1C(N(C2=C(C1=O)C=C(S2)CC2=CC=CC1=CC=CC=C21)CC(C)C)=O | C22H22N2O2S
reactant | carbon dioxide | C(=O)=O | CO2
reactant | sodium hydroxide | 0.25M, 75 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 1,2,3,4-Tetrahydro-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-2,4-dioxothieno[2,3-d]pyrimidine-5-carboxylic acid | 0.337 g | CN1C(N(C2=C(C1=O)C(=C(S2)CC2=CC=CC1=CC=CC=C21)C(=O)O)CC(C)C)=O | C23H22N2O4S
